US06956049B1
Ethyl 3-[(E)-2-phenylethenyl]-1,2,4-thiadiazole-5-carboxylate (1.0 g, 3.8 mmol) was suspended in methanol (50 mL), and NaBH4 (220 mg, 5.8 mmol) was added in portions. The mixture was stirred for 16 h at ambient temperature. The reaction was concentrated in vacuo, acidified with aqueous HCl (4 M) to pH 2, and partitioned between Ethyl acetate and water. The organics were dried over Na2SO4, concentrated in vacuo, and the resultant material was rerystallized from ethyl acetate to afford {3-[(E)-2-phenylethenyl]-1,2,4-thiadiazol-5-yl}methanol (0.6 g, 71% yield) as a pale yellow solid. M.p. 119–120° C. 1H NMR (CDCl3, 300 MHz) δ 7.79 (d, J=16 Hz, 1H), 7.57 (m, 2H), 7.38 (m, 3H), 7.23 (d, J=16 Hz, 1H), 5.14 (d, J=5 Hz, 2H), 3.29 (t, J=5 Hz, 1H). MS (EI ionization) 217 (M+−H).

reactant | Ethyl 3-[(E)-2-phenylethenyl]-1,2,4-thiadiazole-5-carboxylate | 3.8 mmol, 1.0 g | C1(=CC=CC=C1)/C=C/C1=NSC(=N1)C(=O)OCC | C13H12N2O2S
reactant | NaBH4 | 5.8 mmol, 220 mg | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | {3-[(E)-2-phenylethenyl]-1,2,4-thiadiazol-5-yl}methanol | 0.6 g, 71% yield | C1(=CC=CC=C1)/C=C/C1=NSC(=N1)CO | C11H10N2OS
